US09315542B2
(4S,7S,10S,13S)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl 27-oxo-2,5,8,11,14,17,20,23-octaoxa-26-azadotriacontane-32-sulfonate
6-({[(2R,4S)-2-Hydroxy-2,6-dimethyl-4-[(2S)-2-[(2S)-4-methyl-2-[(2S)-2-[2-(morpholin-4-yl)acetamido]-4-phenylbutanamido]pentanamido]-3-phenylpropanamido]-3-oxoheptyl]oxy}sulfonyl)hexanoic acid and 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine (Quanta Biodesign) were reacted following General PEGylation Conditions, Method D.

reactant | 6-({[(2R,4S)-2-Hydroxy-2,6-dimethyl-4-[(2S)-2-[(2S)-4-methyl-2-[(2S)-2-[2-(morpholin-4-yl)acetamido]-4-phenylbutanamido]pentanamido]-3-phenylpropanamido]-3-oxoheptyl]oxy}sulfonyl)hexanoic acid | O[C@](COS(=O)(=O)CCCCCC(=O)O)(C([C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC([C@H](CC(C)C)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)=O)=O)=O)C | C46H69N5O12S
reactant | 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine | COCCOCCOCCOCCOCCOCCOCCOCCN | C17H37NO8
product | (4S,7S,10S,13S)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl 27-oxo-2,5,8,11,14,17,20,23-octaoxa-26-azadotriacontane-32-sulfonate | O=C(NCCOCCOCCOCCOCCOCCOCCOCCOC)CCCCCS(=O)(=O)OCC(C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(C)O | C63H104N6O19S
